US08802674B2
2-[2-Methoxy-4-(morpholine-4-carbonyl)-phenylamino]-4-methylamino-pyrimidine-5-carbonitrile
TA mixture of (4-(5-bromo-4-(methylamino)pyrimidin-2-ylamino)-3-methoxyphenyl)(morpholino)methanone (80 mg, 0.19 mmol), zinc cyanide (50 mg, 0.42 mmol), tris(dibenzylideneacetone)dipalladium (9 mg, 0.09 mmol), DPPF (11 mg, 0.02 mmol) in DMF (3 mL) was stirred at 105° C. in a pressure tube for 18 hours. The reaction mixture was filtered and concentrated. The crude product was purified by reverse phase HPLC to give the title compound (70 mg, 82%). Additional compounds made using the above procedure are shown in Table 7 below.

reactant | (4-(5-bromo-4-(methylamino)pyrimidin-2-ylamino)-3-methoxyphenyl)(morpholino)methanone | 0.19 mmol, 80 mg | BrC=1C(=NC(=NC1)NC1=C(C=C(C=C1)C(=O)N1CCOCC1)OC)NC | C17H20BrN5O3
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.42 mmol, 50 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium | 0.09 mmol, 9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 0.02 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-[2-Methoxy-4-(morpholine-4-carbonyl)-phenylamino]-4-methylamino-pyrimidine-5-carbonitrile | 70 mg, 82% | COC1=C(C=CC(=C1)C(=O)N1CCOCC1)NC1=NC=C(C(=N1)NC)C#N | C18H20N6O3
